data/nitro/train.csv
rxn,smiles,ea
390,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])(\[Cl:31])[H:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([Cl:31])[H:32],-10.46889680469672
D1,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[C:13]([H:14])([C:15]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])[H:23]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([C:13]([H:14])([C:15]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])[H:23],-11.21425883295809
567,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])(\[Br:20])[H:21]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])([Br:20])[H:21],-5.765198738993219
502,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([Br:21])[Br:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([Br:21])[Br:22],-0.6104656900590274
291,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])(\[Cl:15])[Br:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([Cl:15])[Br:16],-4.709112844620162
538,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[Br:12])(\[Br:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Br:12])([Br:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24],-12.113404608372722
104,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Br:22])(\[C:23]([H:24])([H:25])[H:26])[Br:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Br:22])([C:23]([H:24])([H:25])[H:26])[Br:27],-4.838436272191954
747,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[c:36]1[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]([H:44])[c:45]1[H:46]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[c:36]1[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]([H:44])[c:45]1[H:46],-1.657880657762788
426,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])(\[Br:23])[C:24]([H:25])([H:26])[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])([Br:23])[C:24]([H:25])([H:26])[H:27],-15.692097413219871
889,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[Cl:15])(\[H:16])[Br:17]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[Cl:15])([H:16])[Br:17],-13.242752233525469
417,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[Br:15])(\[Br:16])[C:17]([H:18])([H:19])[H:20]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[Br:15])([Br:16])[C:17]([H:18])([H:19])[H:20],-9.532188312190517
677,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])(\[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[Cl:36]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[H:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[Cl:36],-10.492974342981382
